US04343811
2-[3-(4-Methoxy-phenyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methylpropanoic acid
A mixture of 5.9 g (0.02 mole) of 3-(4-methoxyphenyl)-2-methyl-1-propyl-1H-indole-5-ol, 5.1 g (0.03 mole) of 2-bromo-2-methyl-propanoic acid, and 15 g of potassium carbonate was refluxed in 100 ml of acetone for 48 hours. The acetone was removed in vacuo, and the residue was acidified with 2N hydrochloric acid. After extraction with ethyl acetate, the extracts were dried over sodium sulfate and evaporated. The residue obtained was purified by chromatography on silicagel (eluant: chloroform/methanol (9:1)).

reactant | 3-(4-methoxyphenyl)-2-methyl-1-propyl-1H-indole-5-ol | 0.02 mole, 5.9 g | COC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)O)CCC)C | C19H21NO2
reactant | 2-bromo-2-methyl-propanoic acid | 0.03 mole, 5.1 g | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[3-(4-Methoxy-phenyl)-2-methyl-1-propyl-1H-indole-5-yloxy]-2-methylpropanoic acid | COC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)CCC)C | C23H27NO4
